Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Urinary Tract Infection
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with quadriplegia, recurrent prior UTIs, neurogenic 
bladder, and sacral decubitus presents with abd and back pain 
and persistent UTI symtpoms. In ___ had E. Coli UTI 
treated to ___ with Cefpodoxime. Was again admitted 
___ again for UTI symptoms without indication of 
infection.  A CT showed a decompressed bladder, bladder wall 
thickening and enhancement of unclear significance for which 
urology follow-up was recommended. He received Ceftriaxone then 
36hr Cefpodoxime. UCx (+) Enterococcus and another gram positive 
bacteria so treated with Bactrim.  He was given a 7 day course.  
On ___ he was empirically started on Ampicillin for another 
presumed UTI (had fevers).  Oxycodone ws increased and pyridium 
started ___ for complaints of bladder spasms, but this worsened 
with pain in back and over all body and abd. He was given 1mg 
Ativan and then sent in.

On ___ he was seen by Dr. ___ in Urology, where a KUB was 
done showing no renal calculi, though pneumatosis could not be 
ruled out.  Prior CT mentioned, "There are scattered foci of air 
and soft tissue thickening in the anterior abdominal wall." 

There has been concern that some of his behavior is 
stress/coping related, and I understand that the patient had a 
psych consult completed last week, after which Seroquel and 
Valium were increased and Wellbutrin was started.
 
Past Medical History:
- fall injury c/b cervical spine and rib fracture in ___, s/p 
multiple spine surgeries (c1-c4, c5-c7, L3-L5)
- complete quadriplegia s/p baclofen pump placement on ___ 
at ___
- neurogenic bladder s/p suprapubic indrwelling catheter 
(catheter placed in ___ ___
- multiple UTIs
- neurogenic bowel
- lower back stage II coccyx pressure ulcer
- muscle spasms
- type II diabetes
- anxiety (pyschiatrist ___. Worc. MA ___
- depression (pyschiatrist ___. Worc. MA ___
- hypercholesterolemia
- GERD
- h/o DVT/PE s/p IVC filter placement
- history of gastrostomy
- history of tracheostomy
- history of alcohol abuse
- history of drug (marijuana and cocaine) abuse

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
T 99.5, BP 111/66, HR 20, RR 20, SpO2 97%
In NAD.
OP clear, poor dentition, no lesions, no ___, neck supple
No JVD, no bruits
___ - none
LUNGS CTA bilat w/o rhonchi, rubs, wheezes
COR - RRR no MRG nl S2, S2.  Normal PMI
ABD - mild distended, nl active bowel signs, non-tender, LLQ 
mass under scar consistent with history of baclofen pump placed 
there.  No rebound/guarding
EXT - no clubbing, cyanosis, edema
SKIN - Stage II decubiti bilat upper medial gluteal area with 
surrounding StageI erythema, Stage II midline skin breakdown 
coccygeal
NERUO - Minimal proximal LUEx strength, more strength and 
sensation RUEXt.  Is paraplegic LExt.
 
Pertinent Results:
___ 12:55PM   WBC-7.8 RBC-4.05* HGB-11.9* HCT-36.6* MCV-90 
MCH-29.4 MCHC-32.6 RDW-14.9
___ 12:55PM   NEUTS-52.8 ___ MONOS-4.1 EOS-4.1* 
BASOS-1.1
___ 12:22PM   LACTATE-3.6* K+-3.9
___ 12:10PM   GLUCOSE-249* UREA N-12 CREAT-0.4* SODIUM-138 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-23 ANION GAP-19
___ 12:10PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-25 
GLUCOSE-250 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-MOD
___ 12:10PM URINE  ___ BACTERIA-FEW 
YEAST-MOD ___

___ 12:00 am URINE     Site: CATHETER
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML.. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------    32 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S

___ 2:00 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         ___. ___ (___) REQUESTED SUSCEPTIBILITY TEST FOR 
CEFPODOXIME ON
         ___. 
         Cefpodoxime = SENSITIVE, sensitivity testing performed 
by ___
         ___. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------  =>64 R
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

CXR ___
AP CHEST 6:33 P.M. ___ 
  
HISTORY: Quadriplegic fever. Question pneumonia. 
  
IMPRESSION: AP chest compared to ___. 
  
A roughly crescentic opacity in the right lower lung, beneath 
the downward 
displaced minor fissure is probably scarring or atelectasis 
unchanged since at 
least ___. Lungs otherwise clear. Heart size normal. No 
pleural 
effusion or evidence of central adenopathy. 
  
The study and the report were reviewed by the staff radiologist. 


Time Taken Not Noted     Log-In Date/Time: ___ 2:05 pm
      URINE     Site: NOT SPECIFIED

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 ORGANISMS/ML.. 

 
Brief Hospital Course:
___ quadriplegic with recurrent UTIs, now with worsening 
dysuria while on Ampicillin which was started ___ for fevers 
for presumed UTI.  His UA is still positive nitrites and 
leukocyte esterase.
.
# Presumed UTI:  Given Vancomycin to cover enterococcus which he 
received in the ED.  He did not get anything for gram negative 
coverage. Ceftriaxone 2gm daily added to based on prior 
sensitivities.  UCX came back negative for bacteria, and showed 
___ of yeast, likely contaminant -- this was not treated 
here.  Will defer to PCP if he wants to treat this.  A CXR was 
negative for obvious pneumonia.
.
# Suprapubic/Abdominal Pain: DDx includes bladder spasm, but 
given recent KUB and Abd/pelvic CT reads referenced above, I 
reviewed recent radiology films with radiology ___ on 
call radiologist who indicated the CT showed mild enhancement of 
bladder which could be consistent with UTI, and non-specific air 
around stool in the bowel with constipation. Valium was recently 
increased prior to admission, and he was started on Pyridium 
(which he states never helps him). The latter is discontinue on 
discharge.  Pt given Oxycodone prn for improved pain control and 
continued on a bowel regimen as ordered.  His pain is LLQ and 
vague.  I discussed with his PCP about having him see the 
surgeons at ___ who put in his Baclofen pump at some point in 
near future.
.
# Sacral Decubitus Ulcer: Stage II - present on admission.  
___ wound RN to assess.  Continue treatments.
.
# DM2:  Normally on metformin, was continued.
.
#Depression/Anxiety:  continue Seroquel, Wellbutrin, Citalopram 
and valium.
.
CODE:  FULL per patient
.
CONTACT:  HCP = ___ ___

 
Medications on Admission:
1. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QTUES 
2. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, PO EVERY OTHER DAY 
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 

5. Tizanidine 2 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

6. Ascorbic Acid ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 

times a day).  
8. Metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.  
9. Midodrine 5 mg Tablet Sig: Two (2) Tablet PO BID 
10. Baclofen 10 mg Tablet Sig: 2.5 Tablets PO TID 
11. Zofran 4 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for nausea.  
12. Baclofen  Intrathecal
13. Metamucil Powder Sig: One (1) dose PO once a day as 
needed for constipation.  
14. Fragmin 5,000 unit/0.2 mL Syringe Sig: One (1) syringe 
Subcutaneous once a day.  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID prn 
constipation.  
16. Miralax 17 gram/dose Powder Sig: One (1) dose PO once a day 
as needed for constipation.  
17. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H prn 
fever, pain.  
18. Oxycodone 5 mg Tablet Sig: Five (5) Tablet PO q8h:PRN pain
19. Buspirone 10 mg Tablet Sig: One (1) Tablet PO TID 
20. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
21. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS   
22. Diazepam 2 mg Tablet Sig: One (1) Tablet PO Q8H prn spasms.  

23. Quetiapine 25 mg Tablet Sig: Three (3) Tablet PO HS 
24. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal
BID  
25. Phenazopyridine 100 mg Tablet Sig: One (1) Tablet PO TID prn 
bladder pain
26. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 

Tablet PO BID (2 times a day) for 7 days.
27. MagOx 400 mg Tablet Sig: One (1) Tablet PO twice a day.  
28. Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO at bedtime as 
needed for pain.  
29. Lorazepam 0.5 mg Tablet Sig: 0.5 Tablet PO q8h:PRN as needed 

for anxiety.
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever.  
2. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day).  

3. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for constipation.  
4. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
5. Baclofen 10 mg Tablet Sig: 2.5 Tablets PO TID (3 times a 
day).  
6. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO DAILY (Daily) as needed for nausea.  
7. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QTUES (every 
___.  
8. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime).  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Tizanidine 2 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
12. Metformin 500 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
14. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
15. Buspirone 10 mg Tablet Sig: 1.5 Tablets PO TID (3 times a 
day).  
16. Diazepam 2 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
17. Quetiapine 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
18. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
19. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
20. Fragmin 5,000 unit/0.2 mL Syringe Sig: One (1) dose 
Subcutaneous once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Abdominal Pain
Stage II sacral debuitus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.
 
Discharge Instructions:
You were admitted with complaints of abdominal pain.  You were 
empirically given antibiotics for possible urinary tract 
infection but do not have a urinary tract infection by culture.  
You have discomfort in your lower left abdomen, you are 
tolerating all of your medications and a normal diet.  I 
recommend you follow-up with your PCP and discuss ___ possible 
visit with the surgeons who put in the baclofen pump (in the 
left abdomen).  Please exercise patience with your current 
condition and work with your facility's staff to help you as 
best as possible. 
 
Followup Instructions:
___